US08293914B2
8-Fluoro-4-oxo-1-[(6-piperidin-1-ylpyridazin-3-yl)methyl]-1,4-dihydroquinoline-3-carboxylic acid
To a solution of 1-[(6-chloropyridazin-3-yl)methyl]-8-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (0.040 g, 0.12 mmol) in 1 mL of DMSO was added piperidine (0.015 mL, 0.16 mmol). The reaction mixture was irradiated in the microwave at 100° C. for 10 minutes, and purified via reverse phase HPLC to provide the title compound that gave a proton NMR spectra consistent with theory and a mass ion (ES+) of 383.1 for M+H+.

reactant | 1-[(6-chloropyridazin-3-yl)methyl]-8-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 0.12 mmol, 0.040 g | ClC1=CC=C(N=N1)CN1C=C(C(C2=CC=CC(=C12)F)=O)C(=O)O | C15H9ClFN3O3
reactant | piperidine | 0.16 mmol, 0.015 mL | N1CCCCC1 | C5H11N
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 8-Fluoro-4-oxo-1-[(6-piperidin-1-ylpyridazin-3-yl)methyl]-1,4-dihydroquinoline-3-carboxylic acid | FC=1C=CC=C2C(C(=CN(C12)CC=1N=NC(=CC1)N1CCCCC1)C(=O)O)=O | C20H19FN4O3
